US06184236B2
A mixture of (RS)-[3-(4-methoxy-phenyl)-cyclohex-2-enyl]-(4-phenyl-butyl)-amine (2.4 g, 7.15 mmol), 10% Pd/C (0.48 g) and MeOH (50 ml) was hydrogenated for 3 h. Removal of the catalyst, evaporation of the solvent and separation of the isomers by flash-chromatography over SiO2 (Biotage 40, 90 g) eluting with AcOEt gave (1RS,3SR)-[3-(4-methoxy-phenyl)-cyclohexyl]-(4-phenyl-butyl)-amine (1.2 g, 50%, light yellow oil, MS: m/e=338.3 (M+H+)) and (1RS,3RS)-[3-(4-methoxy-phenyl)-cyclohexl]-4-phenyl-butyl)-amine (0.43 g, 18%, light yellow oil, MS: m/e=338.3 (M+H+)).

reactant | (RS)-[3-(4-methoxy-phenyl)-cyclohex-2-enyl]-(4-phenyl-butyl)-amine | 7.15 mmol, 2.4 g | COC1=CC=C(C=C1)C1=CC(CCC1)NCCCCC1=CC=CC=C1 | C23H29NO
catalyst | Pd/C | 0.48 g | [Pd] | Pd
solvent | MeOH | 50 ml | CO | CH4O
product | (1RS,3SR)-[3-(4-methoxy-phenyl)-cyclohexyl]-(4-phenyl-butyl)-amine | COC1=CC=C(C=C1)C1CC(CCC1)NCCCCC1=CC=CC=C1 | C23H31NO
